US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from 1,2,3,4-tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (8.9 g, 0.034 moles), triethylamine (9.5 ml, 0.069 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride (7.7 g, 0.034 moles). The product was triturated with 10% aqueous potassium carbonate, filtered off, rinsed with water, and dried to afford the free base. Recrystallization from N,N-dimethylformamide gave the product (7.1 g), mp 187°-188° C.

reactant | 1,2,3,4-tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.034 moles, 8.9 g | CC1=CC2=C(C=C1[N+](=O)[O-])C1=C(CNCC1)C(O2)=O | C13H12N2O4
reactant | triethylamine | 0.069 moles, 9.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride | 0.034 moles, 7.7 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 7.1 g | C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)[N+](=O)[O-])C | C23H29N3O4
